US07888344B2
2-Bromo-5-propylcyclohexane-1,3-dione
To a stirred solution of 5-propylcyclohexane-1,3-dione (1.54 g, 10 mmol) in AcOH (20 mL) at r.t. was added bromine (1.6 g, 0.51 mL, 1 mmol) dropwise. The reaction was carried out according to Method A to give the title compound in quantitative yield as a light brown solid, which was used without further purification. LCMS (ES+) 232.9 (M+H)+.

reactant | 5-propylcyclohexane-1,3-dione | 10 mmol, 1.54 g | C(CC)C1CC(CC(C1)=O)=O | C9H14O2
reactant | bromine | 1 mmol, 0.51 mL, 1.6 g | BrBr | Br2
solvent | AcOH | 20 mL | CC(=O)O | C2H4O2
product | 2-Bromo-5-propylcyclohexane-1,3-dione | quantitative yield | BrC1C(CC(CC1=O)CCC)=O | C9H13BrO2
